US05861421
35b) 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-(2-[4-(1-piperidinocarbonylmethoxy)phenyl]ethynyl)cyclohexane
A stirred mixture of 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-ethynylcyclohexane (0.150 g, 0.42 mmol) and 4-iodophenoxyacetic acid methyl ester (0.123 g, 0.42 mmol) in dry piperidine (2 mL) was treated at 80° C. for 1.5 hr by the procedure of Example 11 with a mixture of tetrakis(triphenylphosphine)palladium (0.027 g, 0.023 mmol), cuprous iodide (0.0048 g, 0.025 mmol), and triphenylphosphine (crystal). The crude product was chromatographed (silica 50 to 75% ethyl acetate in petroleum ether) and was stripped in vacuo to afford the titled intermediate as a viscous yellow oil (0.232 g, 96%). 1H-NMR (400 MHz, CDCl3) δ 7.38 (d, J=8.7 Hz, 2H), 7.24 (d, J=2.3 Hz, 1H), 7.13 (d-d, J=8.4 Hz, J=2.3 Hz, 1H), 6.89 (d, J=8.9, 1H), 6.84 (d, J=8.4, 1H),4.81 (p, 1H), 4.69 (s, 2H), 4.00 (s, 4H), 3.84 (s, 3H), 3.56 (t, J=5.5 Hz, 2H), 3.49 (t, J=5.5 Hz, 2H), 2.3 to 1.5 (m, 32H with H2O).

reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-ethynylcyclohexane | 0.42 mmol, 0.150 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC2(CC1)OCCO2)C#C | C22H28O4
reactant | 4-iodophenoxyacetic acid methyl ester | 0.42 mmol, 0.123 g | COC(COC1=CC=C(C=C1)I)=O | C9H9IO3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | piperidine | 2 mL | N1CCCCC1 | C5H11N
catalyst | tetrakis(triphenylphosphine)palladium | 0.023 mmol, 0.027 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-(2-[4-(1-piperidinocarbonylmethoxy)phenyl]ethynyl)cyclohexane | 0.232 g, 96% | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC2(CC1)OCCO2)C#CC2=CC=C(C=C2)OCC(=O)N2CCCCC2 | C35H43NO6
